US07037938B2
Methyl 4′-[2-[N-benzyl-N-[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate (470 mg), ammonium formate (296 mg) and palladium on carbon powder (100 mg) in methanol (10 ml) and water (1.0 ml) was refluxed for 30 minutes. The reaction mixture was filtrated and poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. A mixture of the residue was chromatographed (chloroform-methanol) over silica gel to give methyl 4′-[2-[[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]-amino]ethyl]-1,1′-biphenyl-4-carboxylate (326 mg) as a colorless foam.

reactant | Methyl 4′-[2-[N-benzyl-N-[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate | 470 mg | C(C1=CC=CC=C1)N(C[C@H](O)C=1C=NC(=CC1)Cl)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C30H29ClN2O3
reactant | ammonium formate | 296 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1.0 ml | O | H2O
product | methyl 4′-[2-[[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]-amino]ethyl]-1,1′-biphenyl-4-carboxylate | 326 mg | O[C@@H](CNCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C=1C=NC=CC1 | C23H24N2O3
